US07238716B2
A mixture of 3-(5-methyl-2-phenyl-4-oxazolyl)propanethioamide (5.47 g), 1,3-dichloro-2-propanone (3.10 g) and ethanol (100 mL) was heated under reflux for 1 hr. The reaction mixture was concentrated, and ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (3.50 g, 49%) of 4-[2-(4-chloromethyl-2-thiazolyl)ethyl]-5-methyl-2-phenyloxazole from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 89-90° C.

reactant | 3-(5-methyl-2-phenyl-4-oxazolyl)propanethioamide | 5.47 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(N)=S | C13H14N2OS
reactant | 1,3-dichloro-2-propanone | 3.10 g | ClCC(CCl)=O | C3H4Cl2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-[2-(4-chloromethyl-2-thiazolyl)ethyl]-5-methyl-2-phenyloxazole | 3.50 g, 49% | ClCC=1N=C(SC1)CCC=1N=C(OC1C)C1=CC=CC=C1 | C16H15ClN2OS
